US04045433
0.84 g. of dry, solid sodium hydrocarbonate are added to a suspension of 1.36 g. (5 mmoles) of 5-phenyl-7-chloro-1,3,4,5-tetrahydro-2H-1,4-benzodiazepine-2-one in 60 ml. of absolute benzene, and 15 ml. of a 10% phosgene solution in benzene are added dropwise to the mixture at 10°-15° C. The mixture is stirred at 10°-15° C. for one hour and then at room temperature overnight. The inorganic salts are filtered off and washed with 50 ml. of acetone. The organic phase is evaporated, and the dry residue is recrystallized from benzene. 1.08 g. (64.5 %) of 4-chlorocarbonyl-5-phenyl-7-chloro-1,3,4,5-tetrahydro-2H-1,4-benzodiazepine-2-one are obtained; m.p.: 181°-184° C., Rf2 = 0.82.

reactant | 5-phenyl-7-chloro-1,3,4,5-tetrahydro-2H-1,4-benzodiazepine-2-one | 5 mmoles | C1(=CC=CC=C1)C1NCC(NC2=C1C=C(C=C2)Cl)=O | C15H13ClN2O
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 4-chlorocarbonyl-5-phenyl-7-chloro-1,3,4,5-tetrahydro-2H-1,4-benzodiazepine-2-one | 64.5 % | ClC(=O)N1CC(NC2=C(C1C1=CC=CC=C1)C=C(C=C2)Cl)=O | C16H12Cl2N2O2
